US08211890B2
5.i. (E)-{(3R,6S)-6-[2-(7-fluoro-2-methoxy-quinolin-8-yl)-vinyl]-tetrahydro-pyran-3-yl}-carbamic acid tert-butyl ester
A mixture of 7-fluoro-2-methoxy-quinoline-8-carbaldehyde (5 g, 24.36 mmol; prepared according to WO 2008/126024) and (3R,6S)-[6-(1-phenyl-1H-tetrazole-5-sulfonylmethyl)-tetrahydro-pyran-3-yl]-carbamic acid tert-butyl ester (10.32 g, 24.36 mmol, prepared according to WO 2006/032466) in DME (104 mL) was cooled to −60° C. A solution of LiHMDS (1M in THF, 42 mL) was added drop wise over 30 min. The reaction was stirred 1 hour at this temperature before warming slowly to rt. Water (80 mL) and EA (80 mL) were added. The two layers were decanted and the aq. layer was extracted twice with EA (2×100 mL). The combined org. layers were washed with brine (100 mL), dried over MgSO4 and concentrated to dryness. The residue (10.5 g) was carried on without further purification. The analytical data were obtained by trituration of a small portion of the crude in diethyl ether.

reactant | 7-fluoro-2-methoxy-quinoline-8-carbaldehyde | 24.36 mmol, 5 g | FC1=CC=C2C=CC(=NC2=C1C=O)OC | C11H8FNO2
reactant | (3R,6S)-[6-(1-phenyl-1H-tetrazole-5-sulfonylmethyl)-tetrahydro-pyran-3-yl]-carbamic acid tert-butyl ester | 24.36 mmol, 10.32 g | C(C)(C)(C)OC(N[C@H]1CO[C@@H](CC1)CS(=O)(=O)C1=NN=NN1C1=CC=CC=C1)=O | C18H25N5O5S
reactant | LiHMDS | 1M, 42 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | Water | 80 mL | O | H2O
solvent | DME | 104 mL | COCCOC | C4H10O2
solvent | EA | 80 mL | CC(OCC)=O | C4H8O2
product | (E)-{(3R,6S)-6-[2-(7-fluoro-2-methoxy-quinolin-8-yl)-vinyl]-tetrahydro-pyran-3-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1CO[C@@H](CC1)\C=C\C=1C(=CC=C2C=CC(=NC12)OC)F)=O | C22H27FN2O4
